US07622469B2
3,6-Dihydro-6,6-dimethyl-2-(3′,4′-dimethoxybenzylamino)-4-decylamino-1,3,5-triazine hydrochloride
75 ml of methanol, 120 ml of acetone and 0.2 ml of concentrated hydrochloric acid were added to 3.5 g (7.5 mmol) of N1-(3,4-dimethoxybenzyl)-N5-dodecyl-biguanide dihydrochloride, and the mixture was refluxed for 24 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (elution with a mixture of chloroform and methanol (9:1.2)), and dissolved in 70% aqueous acetonitrile. The solution was concentrated under reduced pressure to remove the solvent, and the residue was sufficiently dried under reduced pressure to obtain 2.2 g of a colorless resinous solid.

reactant | methanol | 75 ml | CO | CH4O
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | N1-(3,4-dimethoxybenzyl)-N5-dodecyl-biguanide dihydrochloride | 7.5 mmol, 3.5 g | Cl.Cl.COC=1C=C(CNC(=N)NC(=N)NCCCCCCCCCCCC)C=CC1OC
reactant | acetone | 120 ml | CC(=O)C | C3H6O
product | 3,6-Dihydro-6,6-dimethyl-2-(3′,4′-dimethoxybenzylamino)-4-decylamino-1,3,5-triazine hydrochloride | 2.2 g | Cl.CC1(N=C(NC(=N1)NCC1=CC(=C(C=C1)OC)OC)NCCCCCCCCCC)C | InChI=1S/C24H41N5O2.ClH/c1-6-7-8-9-10-11-12-13-16-25-22-27-23(29-24(2,3)28-22)26-18-19-14-15-20(30-4)21(17-19)31-5;/h14-15,17H,6-13,16,18H2,1-5H3,(H3,25,26,27,28,29);1H
